US05075324
120 ml of water are added to a toluene suspension (120 ml) of sodium borohydride (30 g), hexadecyl-tributylphosphonium bromide (2.27 g) and 15 g of the less polar diastereoisomer of 2-(3-phenyl-3-azidopropyl)-3-carboethoxy-5-carbomethoxy-6 -methyl-4-(m-nitrophenyl)-1,4-dihydropyridine. The mixture is stirred for 24 hours at 70° C., then cooled to room temperature, poured into water (200 ml), extracted with ethylacetate (200 ml), washed with water up to pH 7, dried and evaporated under vacuum. The crude oil (15 g) is purified by chromatography (silice 450 g eluent ethylacetate) to give 7.69 g of the less polar diastereoisomer of 2-(3-phenyl-3-aminopropyl)-3-carboethoxy-5-carbomethoxy-6-methyl-4-(m-nitrophenyl)-1,4-dihydropyridine as a glassy foam. It is dissolved in AcoEt (35 ml) and 1.87 g of maleic acid are added to give 8.2 g of the maleate salt C26H29O6N3 ·C4H4O4 (bright yellow crystal): p.f. 149-152° C.

reactant | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium borohydride | 30 g | [BH4-].[Na+]
reactant | 2-(3-phenyl-3-azidopropyl)-3-carboethoxy-5-carbomethoxy-6 -methyl-4-(m-nitrophenyl)-1,4-dihydropyridine | C1(=CC=CC=C1)C(CCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C)N=[N+]=[N-] | C26H27N5O6
catalyst | hexadecyl-tributylphosphonium bromide | 2.27 g | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
solvent | water | 200 ml | O | H2O
solvent | water | 120 ml | O | H2O
product | 2-(3-phenyl-3-aminopropyl)-3-carboethoxy-5-carbomethoxy-6-methyl-4-(m-nitrophenyl)-1,4-dihydropyridine | C1(=CC=CC=C1)C(CCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C)N | C26H29N3O6
